US09034866B2
Synthesis of (±)-10-bromo-9-fluoro-3-[hydroxy-(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid was reacted with ammonium chloride and purified by flash chromatography to afford 79 mg (50% yield) of the title compound.

reactant | 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylic acid | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)O)C(C3=CC=NN3C)O)C1)F | C17H14BrFN4O4
reactant | ammonium chloride | [Cl-].[NH4+]
product | (±)-10-bromo-9-fluoro-3-[hydroxy-(2-methylpyrazol-3-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 79 mg, 50% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(C=3N(N=CC3)C)O)C1)F | C17H15BrFN5O3
